US04160837
1.77 g (0.005 mol) of the resulting trans-3-hydroxy-4-phenoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine are dissolved in 20 ml of 90% strength acetic acid and the solution is treated at 0° with 2 g of zinc dust in portions. The reaction mixture is then stirred at room temperature for one hour and filtered through a layer of diatomaceous earth and the filtrate is rendered alkaline with concentrated sodium hydroxide solution and extracted 3 times with ether. The organic phase is washed with water, dried over calcium chloride and evaporated under a water pump vacuum, and trans-3-hydroxy-4-phenoxy-pyrrolidine is obtained in the form of the crude base, which crystallises from methylene chloride/hexane; melting point 120°-122°. The neutral fumarate of this compound, which has a melting point of 144°-146°, is obtained by reaction with a solution of fumaric acid in methanol/ether.

reactant | trans-3-hydroxy-4-phenoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine | 0.005 mol, 1.77 g | O[C@@H]1CN(C[C@H]1OC1=CC=CC=C1)C(=O)OCC(Cl)(Cl)Cl | C13H14Cl3NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 2 g | [Zn] | Zn
product | trans-3-hydroxy-4-phenoxy-pyrrolidine | O[C@@H]1CNC[C@H]1OC1=CC=CC=C1 | C10H13NO2
